US05665718
0.88 g (2.5 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one was stirred at room temperature overnight with 0.5 g (6.8 mmol) of diethylamine and 10 ml of N,N-dimethylformamide. After evaporating the reaction mixture the residue was dissolved in methylene chloride and the solution was washed with water. By drying the organic phase over magnesium sulfate and evaporating the solvent there was obtained 0.9 g (95%) of (S)-8-chloro-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride (amorphous).

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.5 mmol, 0.88 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O)F | C16H10Cl2FN5O2
reactant | diethylamine | 6.8 mmol, 0.5 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.9 g, 95% | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN(CC)CC)CC1)=O)F | C20H20ClFN6O2
